US08669251B2
4-tert-Butylbenzoyl Chloride 101a
A mixture of 4-tert-butylbenzoic acid (1000 g, 5.6 mol) in sulfurous dichloride (1.5 L) was refluxed for 3 hours. Then the mixture was concentrated in vacuo, and the crude 101a was used in next step without further purification.

reactant | 4-tert-butylbenzoic acid | 5.6 mol, 1000 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | sulfurous dichloride | 1.5 L | S(=O)(Cl)Cl | Cl2OS
product | 4-tert-Butylbenzoyl Chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
